### PR TITLE
[Merged by Bors] - feat(SimpleGraph/Clique): maps of cliques

### PR DESCRIPTION
**Pull request by apnelson1**
We add some API for cliques in maps of graphs. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -77,6 +77,9 @@ lemma isClique_empty : G.IsClique ∅ := by simp
 lemma isClique_singleton (a : α) : G.IsClique {a} := by simp
 #align simple_graph.is_clique_singleton SimpleGraph.isClique_singleton
 
+theorem isClique_subsingleton (G : SimpleGraph α) (ht : s.Subsingleton) : G.IsClique s :=
+  Set.Subsingleton.pairwise ht G.Adj
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:81]:
```suggestion
  ht.pairwise G.Adj
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 2]
```diff
@@ -77,6 +77,9 @@ lemma isClique_empty : G.IsClique ∅ := by simp
 lemma isClique_singleton (a : α) : G.IsClique {a} := by simp
 #align simple_graph.is_clique_singleton SimpleGraph.isClique_singleton
 
+theorem isClique_subsingleton (G : SimpleGraph α) (ht : s.Subsingleton) : G.IsClique s :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:80]:
```suggestion
theorem isClique_of_subsingleton (G : SimpleGraph α) (ht : s.Subsingleton) : G.IsClique s :=
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 3]
```diff
@@ -114,6 +111,72 @@ theorem isClique_bot_iff : (⊥ : SimpleGraph α).IsClique s ↔ (s : Set α).Su
...
+  rw [isClique_map_iff, f.injective.subsingleton_image_iff]
+  obtain (hs | hs) := s.subsingleton_or_nontrivial
+  · simp [hs, isClique_subsingleton G hs]
+  simp [or_iff_right hs.not_subsingleton, Set.image_eq_image f.injective]
+
+theorem isClique_of_card_le_one (G : SimpleGraph α) {t : Finset α} (ht : t.card ≤ 1) :
+    G.IsClique t := by
+  apply isClique_subsingleton
+  rw [Finset.card_le_one_iff_subsingleton_coe] at ht
+  exact (Set.subsingleton_coe _).1 ht
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:149]: Given that this is just
```suggestion
theorem isClique_of_card_le_one (G : SimpleGraph α) {t : Finset α} (ht : t.card ≤ 1) :
    G.IsClique t := isClique_of_subsingleton $ card_le_one.1 ht
```
I don't think it's worth having

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 4]
```diff
@@ -114,6 +111,72 @@ theorem isClique_bot_iff : (⊥ : SimpleGraph α).IsClique s ↔ (s : Set α).Su
...
+
+theorem isClique_map_finset_iff :
+    (G.map f).IsClique t ↔ t.card ≤ 1 ∨ ∃ (s : Finset α), G.IsClique s ∧ s.map f = t := by
+  obtain (ht | ht) := le_or_lt t.card 1
+  · simp [ht, isClique_of_card_le_one]
+  rw [isClique_map_finset_iff_of_nontrivial, ← not_lt]
+  · simp [ht, Finset.map_eq_image]
+  exact Finset.one_lt_card_iff_nontrivial.mp ht
+
+protected theorem IsClique.finset_map {f : α ↪ β} {s : Finset α} (h : G.IsClique s) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:174]:
```suggestion
protected theorem IsClique.map {f : α ↪ β} {s : Finset α} (h : G.IsClique s) :
```
and rename the existing `IsClique.map` to `IsClique.image`, maybe?

Comment (apnelson1) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:174]: I think this is prioritizing `map` to be first and foremost something that refers to finsets over something that refers to simple graphs, which doesn't seem like the correct choice in the `SimpleGraph` namespace/API. (If we were in the `Finset` namespace, I'd agree.)

I do see both sides of this, though - it probably should be discussed further rather than changing it here.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:174]: Then for now at least
```suggestion
protected theorem IsClique.finsetMap {f : α ↪ β} {s : Finset α} (h : G.IsClique s) :
```

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: > I think this is prioritizing `map` to be first and foremost something that refers to finsets over something that refers to simple graphs, which doesn't seem like the correct choice in the `SimpleGraph` namespace/API

Thinking about again, does it not exactly make sense here in that cliques are (almost) always finsets?

Comment (apnelson1) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: I wouldn't say they are.

Comment (apnelson1) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: At least - their definition has nothing inherently to do with finiteness.

Comment (apnelson1) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Again, I think this discussion can happen elsewhere.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 5]
```diff
@@ -77,6 +77,9 @@ lemma isClique_empty : G.IsClique ∅ := by simp
 lemma isClique_singleton (a : α) : G.IsClique {a} := by simp
 #align simple_graph.is_clique_singleton SimpleGraph.isClique_singleton
 
+theorem isClique_of_subsingleton (G : SimpleGraph α) (ht : s.Subsingleton) : G.IsClique s :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:80]:
```suggestion
theorem IsClique.of_subsingleton {G : SimpleGraph α} (hs : s.Subsingleton) : G.IsClique s :=
```
for `.of_subsingleton` to work

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 6]
```diff
@@ -156,6 +213,16 @@ protected theorem IsNClique.map (h : G.IsNClique n s) {f : α ↪ β} :
   ⟨by rw [coe_map]; exact h.1.map, (card_map _).trans h.2⟩
 #align simple_graph.is_n_clique.map SimpleGraph.IsNClique.map
 
+theorem isNClique_map_iff [DecidableEq β] (hn : 1 < n) {t : Finset β} {f : α ↪ β} :
+    (G.map f).IsNClique n t ↔ ∃ (s : Finset α), G.IsNClique n s ∧ s.map f = t := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:217]: Not very important, but you wouldn't write `∀ (s : Finset α), ....`, would you?
```suggestion
    (G.map f).IsNClique n t ↔ ∃ s : Finset α, G.IsNClique n s ∧ s.map f = t := by
```
and elsewhere

**Review by YaelDillies — APPROVED** [review]
maintainer merge

**Comment by kmill** [comment]
Thanks!

bors r+
